US05102578
A solution of 1.04 g of trans-4-[trans-4-(3-butenyl)cyclohexyl]cyclohexanecarbonitrile in 10 ml of diethylene glycol was treated with a solution of 2 g of potassium hydroxide in 10 ml of diethylene glycol and then stirred at 180° C. (oil bath temperature) for 2.5 hours. Subsequently, the reaction mixture was poured on to ice/water, acidified with 8 ml of 25 percent hydrochloric acid and extracted with diethyl ether. The organic phase was dried over magnesium sulphate, filtered and evaporated. Crystallization of the resulting beige crude product (1.06 g) from 50 ml of hexane gave 588 mg of trans-4-[trans-4-(3-butenyl)cyclohexyl]cyclohexanecarboxylic acid as colorless crystals.

reactant | trans-4-[trans-4-(3-butenyl)cyclohexyl]cyclohexanecarbonitrile | 1.04 g | C(CC=C)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C#N | C17H27N
reactant | potassium hydroxide | 2 g | [OH-].[K+]
reactant | hydrochloric acid | 8 ml | Cl | ClH
reactant | diethylene glycol | 10 ml | C(COCCO)O | C4H10O3
reactant | diethylene glycol | 10 ml | C(COCCO)O | C4H10O3
product | trans-4-[trans-4-(3-butenyl)cyclohexyl]cyclohexanecarboxylic acid | 588 mg | C(CC=C)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C(=O)O | C17H28O2
